US09399658B2
Add into a vial first 2 mL of pyridine/dioxane, 3:1 v/v followed by 100 μL of 1 M 2-chloro-4H-1,3,2-benzodioxaphosphorin-4-one solution in dry dioxane to give a 50 mM solution of the phosphitylating reagent, e.g. 2-chloro-4H-1,3,2-benzodioxaphosphorin-2-one, in dioxane/pyridine, 3:1 (v/v). Homogenize the solution by gently shaking. Start the reaction by drawing the 2-chloro-4H-1,3,2-benzodioxaphosphorin-4-one solution through the synthesis column from the vial.

reactant | pyridine dioxane | 2 mL | N1=CC=CC=C1.O1CCOCC1
reactant | 2-chloro-4H-1,3,2-benzodioxaphosphorin-4-one | 1 M, 100 μL | ClP1OC2=C(C(O1)=O)C=CC=C2 | C7H4ClO3P
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 2-chloro-4H-1,3,2-benzodioxaphosphorin-2-one | ClP1(OC2=C(CO1)C=CC=C2)=O | C7H6ClO3P
